US05876945
The Z-Asp(OtBu)-Leu-OBzl (15.6 g) in methanol (50 mL) was added 10% Pd on carbon (0.17 g) and was hydrogenated on a Paar Shaker. After filtering off the catalyst, the filtrate was concentrated to give a foamy solid. The crude product was triturated with diethyl ether to yield 8.03 g of H-Asp(OtBu)-Leu-OH.

reactant | Z-Asp(OtBu)-Leu-OBzl | 15.6 g | N([C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C29H38N2O7
solvent | methanol | 50 mL | CO | CH4O
catalyst | Pd on carbon | 0.17 g | [Pd] | Pd
product | H-Asp(OtBu)-Leu-OH | 8.03 g | N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(C)C)C(=O)O | C14H26N2O5
